US06281227B1
3-(3-Methoxy-4-methylphenyl)propenoic acid (5.33 g, 27.7 mmol) (prepared according to the procedure described in J. Med. Chem. 1991, 34, 1662-1668) is suspended in benzene (30 mL) and treated dropwise with thionyl chloride (2.22 mL, 30.5 mmol) at 0° C. The reaction is heated to reflux and it is maintained for 1 hour. The volatiles are removed in vacuo and the resulting solid is dissolved in dioxane and added dropwise to a mixture of sodium azide (3.6 g, 55.4 mmol) in water/dioxane (30 mL, 1:5) at 0° C. After stirring 1 hours, the solution is poured over ice-water, the precipitate is collected and washed with water. The solid is dried under vacuum over P2O5 (24 hours), dissolved in benzene (30 mL) and heated to reflux slowly over about 4 hours. The benzene is removed to give 2-(3-methoxy-4-methyl-phenyl)vinylisocyanate as a brown oil. The oil is taken up in o-dichlorobenzene, treated with iodine and heated to reflux for 3.5 hours. The volatiles are removed and the residue is mixed with 2.5% MeOH/CH2Cl2(10 mL), then allowed to stand overnight at room temperature. The resulting solid is collected washed with hexane and ether, and dried to give the title compound (2.67 g, 14.1 mmol).

reactant | 3-(3-Methoxy-4-methylphenyl)propenoic acid | 27.7 mmol, 5.33 g | COC=1C=C(C=CC1C)C=CC(=O)O | C11H12O3
reactant | thionyl chloride | 30.5 mmol, 2.22 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium azide | 55.4 mmol, 3.6 g | [N-]=[N+]=[N-].[Na+]
reactant | water dioxane | 30 mL | O.O1CCOCC1
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 2-(3-methoxy-4-methyl-phenyl)vinylisocyanate | COC=1C=C(C=CC1C)C=CN=C=O | C11H11NO2
